US08314119B2
(4s)-4-N-(5-Bromopyridin-3-yl)-1-azatricyclo[3.3.1.13,7]decan-4-amine
Prepared from 1-azatricyclo[3.3.1.13,7]decan-4-one (1.51 g, 10 mmol; see Becker, D. P.; Flynn, D. L. Synthesis 1992, 1080) and 3-amino-5-bromopyridine (2.06 g, 12 mmol; Aldrich) according to the procedure described in Example 65A: 1H NMR (300 MHz, methanol-D4) δ ppm 1.81-1.99 (m, 2H), 2.02-2.15 (m, 1H), 2.17-2.40 (m, 4H), 3.44-3.51 (m, 2H), 3.53-3.66 (m, 4H), 3.91 (s, 1H), 7.26-7.41 (m, 1H), 7.84 (d, J=1.7 Hz, 1H), 8.01 (d, J=2.7 Hz, 1H). MS (DCI/NH3) m/z=308/310 (M+H)+.

reactant | 1-azatricyclo[3.3.1.13,7]decan-4-one | 10 mmol, 1.51 g | N12CC3C(C(CC(C1)C3)C2)=O | C9H13NO
reactant | 3-amino-5-bromopyridine | 12 mmol, 2.06 g | NC=1C=NC=C(C1)Br | C5H5BrN2
reactant | NH3 | N | H3N
product | (4s)-4-N-(5-Bromopyridin-3-yl)-1-azatricyclo[3.3.1.13,7]decan-4-amine | BrC=1C=C(C=NC1)N[C@H]1C2CN3CC(CC1C3)C2 | C14H18BrN3
